US09422287B2
Ethyl 2-(8,8-dimethyl-8H-indolo[3,2,1-de]acridin-3-yl)benzoate
39.8 g (110.0 mmol) of 3-bromo-8,8-dimethyl-8H-indolo[3,2,1-de]acridine (Br-1), 30 g (110.0 mmol) of [4-chloro-2-(ethoxycarbonyl)phenyl]boronic acid and 9.7 g (92 mmol) of sodium carbonate are suspended in 350 ml of toluene, 350 ml of dioxane and 500 ml of water. 913 mg (3.0 mmol) of tri-otolylphosphine and then 112 mg (0.5 mmol) of palladium(II) acetate are added to this suspension, and the reaction mixture is heated under reflux for 16 h. After cooling, the organic phase is separated off, filtered through silica gel, washed three times with 200 ml of water and subsequently evaporated to dryness. The residue is recrystallised from toluene. The yield is 44 g (94 mmol), corresponding to 86% of theory.

reactant | 3-bromo-8,8-dimethyl-8H-indolo[3,2,1-de]acridine | 110.0 mmol, 39.8 g | BrC1=CC2=C(C=C1)N1C3=C2C=CC=C3C(C=3C=CC=CC13)(C)C | C21H16BrN
reactant | [4-chloro-2-(ethoxycarbonyl)phenyl]boronic acid | 110.0 mmol, 30 g | ClC1=CC(=C(C=C1)B(O)O)C(=O)OCC | C9H10BClO4
reactant | sodium carbonate | 92 mmol, 9.7 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | dioxane | 350 ml | O1CCOCC1 | C4H8O2
solvent | toluene | 350 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium(II) acetate | 0.5 mmol, 112 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 500 ml | O | H2O
product | Ethyl 2-(8,8-dimethyl-8H-indolo[3,2,1-de]acridin-3-yl)benzoate | CC1(C=2C=CC=CC2N2C3=C(C=CC=C13)C=1C=C(C=CC12)C1=C(C(=O)OCC)C=CC=C1)C | C30H25NO2
